### PR TITLE
Example: Treap data structure

### PR DESCRIPTION
**Pull request by zaxioms0**

### CODE REVIEW

File: src/Examples/Sequence/Treap.lagda.md [hunk 1]
```diff
@@ -0,0 +1,162 @@
...
+    → ITreap A (l₁ ++ [ a ] ++ l₂)
+itreap : (A : tp⁺) → val (list A) → tp⁺
+itreap A l = meta⁺ (ITreap A l)
+```
+
+Here is the implementation of join:
+```agda
+++-singleton : {T : Set} → (x : T) → (l₁ l₂ : List T) → l₁ ++ x ∷ l₂ ≡ l₁ ++ [ x ] ++ l₂
+++-singleton x [] l₂ = refl
+++-singleton x (x₁ ∷ l₁) l₂ = Eq.cong (λ l → x₁ ∷ l) (++-singleton _ _ _)
```
Comment (HarrisonGrodin) [inline src/Examples/Sequence/Treap.lagda.md:56]: I think this is just `refl`? :)

(By definition, `[ x ] ++ l₂ = (x ∷ []) ++ l₂ = x ∷ l₂`?)

File: src/Examples/Sequence/Treap.lagda.md [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+i-join-lemma a₁ a a₂ l₁₁ l₁₂ l₂₁ l₂₂ = 
+  let open ≡-Reasoning in
+  begin
+    ((l₁₁ ++ a₁ ∷ l₁₂) ++ a ∷ l₂₁) ++ a₂ ∷ l₂₂
+  ≡⟨ Eq.cong ( λ l' →  (l' ++  a ∷ l₂₁) ++ a₂ ∷ l₂₂) (++-singleton a₁ l₁₁ l₁₂) ⟩
+    ((l₁₁ ++ [ a₁ ] ++ l₁₂) ++ a ∷ l₂₁) ++ a₂ ∷ l₂₂ 
+  ≡⟨ Eq.cong (λ l' → l' ++ (a₂ ∷ l₂₂)) (++-singleton a _ l₂₁) ⟩ 
+    ((l₁₁ ++ [ a₁ ] ++ l₁₂) ++ [ a ]  ++ l₂₁) ++ (a₂ ∷ l₂₂ )
+  ≡⟨ ++-singleton _ _ _ ⟩
+    ((l₁₁ ++ [ a₁ ] ++ l₁₂) ++ ([ a ] ++ l₂₁)) ++ ([ a₂ ] ++ l₂₂)
```
Comment (HarrisonGrodin) [inline src/Examples/Sequence/Treap.lagda.md:68]: (if the previous comment is correct, I think this is just the `++-assoc`?)
```suggestion
```

File: src/Examples/Sequence/Treap.lagda.md [hunk 3]
```diff
@@ -0,0 +1,162 @@
...
+    (l₁₁ ++ [ a₁ ] ++ l₁₂) ++ [ a ] ++ l₂₁ ++ [ a₂ ] ++ l₂₂
+  ∎
+
+
+nz-lemma : {T : Set} → (a₁ a₂ : T) → (l₁₁ l₁₂ l₂₁ l₂₂ : List T) → Nat.zero Nat.< (length (l₁₁ ++ [ a₁ ] ++ l₁₂) Nat.+ length (l₂₁ ++ [ a₂ ] ++ l₂₂))
+nz-lemma a₁ a₂ l₁₁ l₁₂ l₂₁ l₂₂ =
+  let open NatProp.≤-Reasoning in
+  begin
+    1
+  ≤⟨ Nat.s≤s Nat.z≤n ⟩
```
Comment (HarrisonGrodin) [inline src/Examples/Sequence/Treap.lagda.md:79]:
```suggestion
  ≡⟨⟩
```

File: src/Examples/Sequence/Treap.lagda.md [hunk 4]
```diff
@@ -0,0 +1,162 @@
...
+    length [ a₁ ] 
+  ≤⟨ m≤n+m (length [ a₁ ]) (length l₁₁) ⟩
+    (length l₁₁) Nat.+ (length [ a₁ ])
+  ≡⟨ Eq.sym (length-++ l₁₁) ⟩
+    length (l₁₁ ++ [ a₁ ])
+  ≤⟨ m≤m+n (length (l₁₁ ++ [ a₁ ])) _ ⟩
+    length (l₁₁ ++ [ a₁ ]) Nat.+ (length l₁₂) 
+  ≡⟨ Eq.sym (length-++ (l₁₁ ++ [ a₁ ])) ⟩
```
Comment (HarrisonGrodin) [inline src/Examples/Sequence/Treap.lagda.md:87]: `≡˘` (`˘` is `\u{}`) just includes `Eq.sym`, for readability!
```suggestion
  ≡˘⟨ length-++ l₁₁ ⟩
    length (l₁₁ ++ [ a₁ ])
  ≤⟨ m≤m+n (length (l₁₁ ++ [ a₁ ])) _ ⟩
    length (l₁₁ ++ [ a₁ ]) Nat.+ (length l₁₂) 
  ≡˘⟨ length-++ (l₁₁ ++ [ a₁ ]) ⟩
```

**Review by HarrisonGrodin — COMMENTED** [review]
Looking great! Some small thoughts/Agda-isms. :)

File: src/Examples/Sequence/Treap.lagda.md (hunk 1 above)
Comment (zaxioms) [reply src/Examples/Sequence/Treap.lagda.md:56]: xd oops. I had a couple of things which I wrote out which reduced to refl, but I guess I missed this one

File: src/Examples/Sequence/Treap.lagda.md (hunk 2 above)
Comment (zaxioms) [reply src/Examples/Sequence/Treap.lagda.md:68]: yeah
